US08877760B2
To a mixture of (R)-benzyl-1-((6-chloro-5-cyanopyrazin-2-ylamino)(cyclopropyl)methyl)cyclopropylcarbamate (80 mg, 0.20 mmol) in Dioxane (2 mL) was added 3-(pyrimidin-2-yl)aniline (41 mg, 0.24 mmol), Pd(OAc)2 (9 mg, 0.04 mmol), BINAP (25 mg, 0.04 mmol) and K2CO3 (83 mg, 0.6 mmol). After heating at 95° C. for 2 h, the mixture was filtered, the filtrate was concentrated and purified by preparative HPLC to give (R)-benzyl-1-((5-cyano-6-(3-(pyrimidin-2-yl)phenylamino)pyrazin-2-ylamino)(cyclopropyl)methyl)cyclopropylcarbamate.

reactant | (R)-benzyl-1-((6-chloro-5-cyanopyrazin-2-ylamino)(cyclopropyl)methyl)cyclopropylcarbamate | 0.20 mmol, 80 mg | C(C1=CC=CC=C1)OC(NC1(CC1)[C@@H](C1CC1)NC1=NC(=C(N=C1)C#N)Cl)=O | C20H20ClN5O2
reactant | 3-(pyrimidin-2-yl)aniline | 0.24 mmol, 41 mg | N1=C(N=CC=C1)C=1C=C(N)C=CC1 | C10H9N3
reactant | BINAP | 0.04 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 0.6 mmol, 83 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.04 mmol, 9 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-benzyl-1-((5-cyano-6-(3-(pyrimidin-2-yl)phenylamino)pyrazin-2-ylamino)(cyclopropyl)methyl)cyclopropylcarbamate | C(C1=CC=CC=C1)OC(NC1(CC1)[C@@H](C1CC1)NC1=NC(=C(N=C1)C#N)NC1=CC(=CC=C1)C1=NC=CC=N1)=O | C30H28N8O2
